US07977327B2
(3S,4S)-3-(tert-Butoxycarbonyl)amino-4-vinylpyrrolidine
A solution of (3S,4S)-1-benzyloxycarbonyl-3-(tert-butoxycarbonyl)amino-4-vinylpyrrolidine (275 mg, 0.794 mmol) in tetrahydrofuran (5 mL) and sodium (300 mg, 13.0 mmol) were sequentially added to liquid ammonia (80 mL) at −78° C., and the mixture was stirred at the same temperature for 0.5 hours. The solvent was removed, followed by dilution with chloroform (80 mL). The resultant mixture was washed sequentially by 1 mol/L sodium hydroxide (30 mL) and saturated brine (100 mL), dried over anhydrous sodium sulfate, filtered, and concentrated under reduced pressure, to thereby yield the title compound as a colorless oily substance (168 mg, 100%).

reactant | (3S,4S)-1-benzyloxycarbonyl-3-(tert-butoxycarbonyl)amino-4-vinylpyrrolidine | 0.794 mmol, 275 mg | C(C1=CC=CC=C1)OC(=O)N1C[C@H]([C@H](C1)C=C)NC(=O)OC(C)(C)C | C19H26N2O4
reactant | sodium | 13.0 mmol, 300 mg | [Na] | Na
reactant | ammonia | 80 mL | N | H3N
solvent | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
product | (3S,4S)-3-(tert-Butoxycarbonyl)amino-4-vinylpyrrolidine | C(C)(C)(C)OC(=O)N[C@@H]1CNC[C@@H]1C=C | C11H20N2O2
